US04244731
7 Grams of methyl 2,6-dimethylphenoxyacetate, 3.4 ml of acetic anhydride and 100 ml of carbon disulfide were mixed at 0° C., and to the mixture was added 17.9 g of aluminum chloride, and the resulting mixture was heated until gas was evolved. After the gas-evolution was ceased, the reaction mixture was refluxed for 30 minutes under heating. Then water was added to the solution. The resulting mixture was extracted with di-isopropyl ether, washed with water, dried over anhydrous magnesium sulfate. The oily solution was concentrated to obtain an oily substance. The oily substance was chromatographed on silica gel to obtain 6.1 g of methyl 4-acetyl-2,6-dimethylphenoxyacetate, nD21.6 1.5165.

reactant | methyl 2,6-dimethylphenoxyacetate | CC1=C(OCC(=O)OC)C(=CC=C1)C | C11H14O3
reactant | acetic anhydride | 3.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | carbon disulfide | 100 ml | C(=S)=S | CS2
reactant | aluminum chloride | 17.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | O | H2O
product | methyl 4-acetyl-2,6-dimethylphenoxyacetate | 6.1 g | C(C)(=O)C1=CC(=C(OCC(=O)OC)C(=C1)C)C | C13H16O4
